US04140775
In the manner given in Example 1B, 1-(m-fluorophenyl)-4-(p-nitrobenzyl)piperazine is reduced with aqueous titanium trichloride to give 1-(m-fluorophenyl)-4-[(4-aminophenyl)methyl]piperazine.

reactant | 1-(m-fluorophenyl)-4-(p-nitrobenzyl)piperazine | FC=1C=C(C=CC1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H18FN3O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(m-fluorophenyl)-4-[(4-aminophenyl)methyl]piperazine | FC=1C=C(C=CC1)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H20FN3
